Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.9906800142900003
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.85852595008
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.7594423117700002
[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.4171738717
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:11][H:12],1.89423017038
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.61165362867
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-3.69378766054
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-7.0383505186300015
[H:1][C:2][O:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],0.886734446041
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]=[O:10],1.05256453169
[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-7.62770801624
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]=[C:11]([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],-4.01843759922
[H:1][C:2][C:8]([O:7][C:5](=[C:3][H:4])[H:6])([H:9])[H:10]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]1([H:9])[H:10],-5.8571841188
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10].[H:6],3.87595917971
[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],4.32999362801
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.4050012515
[H:1][C:2][O:3][C:4]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.79078509431
[C:1]#[C:2].[C:3](=[O:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3](=[O:4])[O:5][C:6]([H:7])([H:8])[H:9],-5.08589296235
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.632232500330002
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.8590464091
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.96764171702
[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10].[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],-7.95153537336
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],0.7400578179899999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],1.57419343183
[H:1][C:2]([H:3])[C:4]([H:5])=[O:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],0.431912247999
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],1.73243732026
[H:1].[O:2]=[C:3]([H:4])[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.2613236500700005
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2][C:11]([C:6]([C:4](=[O:3])[H:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],3.18102245708
